US08426602B2
2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-{2-[(2-hydroxyethyl)amino]-1,3-thiazol-5-yl}pyridine-3,5-dicarbonitrile
94 mg (0.159 mmol) of 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(2-iodo-1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile were initially charged in 2.5 ml of acetone, 0.479 ml (7.927 mmol) of 2-aminoethanol was added

reactant | 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(2-iodo-1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.159 mmol, 94 mg | NC1=NC(=C(C(=C1C#N)C1=CN=C(S1)I)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H10ClIN6S3
reactant | 2-aminoethanol | 7.927 mmol, 0.479 ml | NCCO | C2H7NO
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
product | 2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-{2-[(2-hydroxyethyl)amino]-1,3-thiazol-5-yl}pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CN=C(S1)NCCO)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C22H16ClN7OS3
